US07304081B2
Step 5. (1R)-1′-{[1-(6-azetidin-1-ylpyridin-3-yl)cyclopropyl]carbonyl}-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one
To a solution of 1-(6-azetidin-1-ylpyridin-3-yl)cyclopropanecarbonyl chloride dihydrochloride (64.00 mg, 0.0002067 mol) and (7,7-dimethyl-2-oxobicyclo[2.2.1]hept-1-yl)methanesulfonic acid-(1R)-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one (1:1) (87.3 mg, 0.000207 mol) in methylene chloride (1.00 mL, 0.0156 mol) was added N,N-diisopropylethylamine (0.144 mL, 0.000827 mol) at 0° C. The reaction mixture was stirred at rt for 1-2 h. Upon completion the reaction mixture was diluted with ethyl acetate and washed with water and brine successively, dried with sodium sulfate, filtered, and concentrated. The crude product was purified by prep-LCMS twice to obtain the product as a TFA salt. LCMS: m/z 391.2 (M+H)+.

reactant | 1-(6-azetidin-1-ylpyridin-3-yl)cyclopropanecarbonyl chloride dihydrochloride | 0.0002067 mol, 64.00 mg | Cl.Cl.N1(CCC1)C1=CC=C(C=N1)C1(CC1)C(=O)Cl
reactant | (7,7-dimethyl-2-oxobicyclo[2.2.1]hept-1-yl)methanesulfonic acid (1R)-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one | 0.000207 mol, 87.3 mg | CC1(C2(C(CC1CC2)=O)CS(=O)(=O)O)C.N1C[C@]2(CC1)OC(C=1C=NC=CC12)=O
reactant | methylene chloride | 0.0156 mol, 1.00 mL | C(Cl)Cl | CH2Cl2
reactant | N,N-diisopropylethylamine | 0.000827 mol, 0.144 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1R)-1′-{[1-(6-azetidin-1-ylpyridin-3-yl)cyclopropyl]carbonyl}-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one | N1(CCC1)C1=CC=C(C=N1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C=1C=NC=CC12)=O | C22H22N4O3
